US09102682B2
To a solution tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]ethyl]carbamate in THF was added TBAF and the contents refluxed for 3 hrs. Ethyl acetate and water was then added and the organic layer separated, dried with magnesium sulfate and then concentrated under vacuum. To this crude reaction was added acetic acid/water (9:1) and then contents stirred for 12 hrs at room temperature. After concentration under vacuum, sat NaHCO3 and ethyl acetate was then added. The organic layer was separated, dried and then concentrated under vacuum. The crude reaction product thus obtained was dissolved in DMF, oxone was then added and the contents stirred for 3 hrs. After addition of ethyl acetate, the reaction mixture was filtered through CELITE™ and concentrated under vacuum. Column chromatography of the crude product over silica gel using hexane/ethyl acetate (0-100%) afforded 7-[1-[(tert-butoxycarbonylamino)methyl]-2-methyl-propyl]-2-chloro-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid. 1H NMR (600 MHz, DMSO-d6) δ ppm 0.85 (d, J=7.03 Hz, 3H) 0.97 (d, J=6.73 Hz, 3H) 1.52 (s, 9H) 1.99-2.23 (m, 1H) 3.98 (dd, J=14.05, 3.51 Hz, 1H) 4.47-4.71 (m, 2H) 7.47 (s, 1H) 9.17 (s, 1H). LCMS (ESI) 383 (M+H).

reactant | tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]ethyl]carbamate | ClC1=NC=C(C(=N1)NCCNC(OC(C)(C)C)=O)C#CC(OCC)OCC | C18H27ClN4O4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | oxone | OOS(=O)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid water | C(C)(=O)O.O
solvent | water | O | H2O
product | 7-[1-[(tert-butoxycarbonylamino)methyl]-2-methyl-propyl]-2-chloro-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid | C(C)(C)(C)OC(=O)NCC(C(C)C)N1C(=CC2=C1N=C(N=C2)Cl)C(=O)O | C17H23ClN4O4
